US05225402
1-[1-(4-Vinylbenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril (0.6 g) is dissolved in ethanol (10 ml) and thereto is added 10% palladium-carbon (0.1 g) and the mixture is stirred under hydrogen atmosphere. After the reaction, the catalyst is removed by filtration and the filtrate is concentrated. The resultant is purified by silica gel column chromatography-(solvent: n-hexane:ethyl acetate=1:1) and recrystallized from n-hexane/ethanol to give 1-[1-(4-ethylbenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril (0.5 g) as white powder, m.p.: 133°-134° C.

reactant | 1-[1-(4-Vinylbenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 0.6 g | C(=C)C1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C23H24N2O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.1 g | [C].[Pd]
product | 1-[1-(4-ethylbenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 0.5 g | C(C)C1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C23H26N2O2
